US04017515
100% Hydrazine hydrate (20 ml.) was added to a stirred solution of N-(fur-2-ylmethoxy)phthalimide (42.0 g.) in methylene chloride (600 ml.). A copious precipitate formed immediately, and the mixture was stirred for 45 min. 5N Ammonium hydroxide solution (500 ml.) was added to dissolve the precipitate, the two layers were separated, and the aqueous layer was washed twice with methylene chloride. The combined methylene chloride extracts were washed (saturated brine) and dried. Methylene chloride was evaporated off, and the residual liquid was dissolved in ether (250 ml.). Dry hydrogen chloride was passed into this solution for one hour. The precipitated solid was filtered off, washed with ether, dried, and recrystallised from isopropanol to give fur-2-ylmethoxyamine hydrochloride (12.89 g., 50%), m.p. 135°-136° (decomp) τ values (DMSO-d6) include 4.87 (CH2), 2.20,. 3.27, 3.44 (furyl protons).

reactant | Hydrazine hydrate | 20 ml | O.NN
reactant | N-(fur-2-ylmethoxy)phthalimide | 42.0 g | O1C(=CC=C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C13H9NO4
reactant | Ammonium hydroxide | 5N, 500 ml | [OH-].[NH4+]
reactant | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | fur-2-ylmethoxyamine hydrochloride | 12.89 g, 50% | Cl.O1C(=CC=C1)CON | InChI=1S/C5H7NO2.ClH/c6-8-4-5-2-1-3-7-5;/h1-3H,4,6H2;1H
